US04145432
A mixture of 2-nitrobenzaldehyde (4.536 g), 2-chloroethyl acetoacetate (4.94 g) and piperidine (110 mg) in benzene (18 ml) and acetic acid (360 mg) was refluxed for an hour under azeotropic dehydration. The reaction mixture was washed with water and dried. The solvent was distilled off to give an reddish oil of 2-chloroethyl 2-(2-nitrobenzylidene)acetoacetate, and thus obtained oil was treated with ethyl 3-amino-4,4-diethoxycrotonate (7.1 g) to give yellow granules of 2-chloroethyl 2-methyl-4-(2-nitrophenyl)- 5-ethoxycarbonyl-6-diethoxymethyl1,4 -dehydropyridine-3-carboxylate, m.p. 82° to 84° C. (recrystallized from diisopropyl ether).

reactant | 2-nitrobenzaldehyde | 4.536 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 2-chloroethyl acetoacetate | 4.94 g | C(CC(=O)C)(=O)OCCCl | C6H9ClO3
reactant | piperidine | 110 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 360 mg | C(C)(=O)O | C2H4O2
solvent | benzene | 18 ml | C1=CC=CC=C1 | C6H6
product | 2-chloroethyl 2-(2-nitrobenzylidene)acetoacetate | [N+](=O)([O-])C1=C(C=C(C(=O)OCCCl)C(=O)C)C=CC=C1 | C13H12ClNO5
